US08389527B2
To a 1 dram vial was added 6-chloro-8-(4-(cyclopropylcarbamoyl)phenylamino)-N-(pyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (39 mg, 0.087 mmol) and (trans)-cyclohexane-1,4-diamine (99 mg, 0.871 mmol). The reaction solution was heated neat at 160° C. for 1 hour. The solution was cooled and purified by preparative HPLC to yield 6-((trans-4-aminocyclohexyl)amino)-8-((4-(cyclopropylcarbamoyl)phenyl)amino)-N-4-pyridinylimidazo[1,2-b]pyridazine-3-carboxamide (11.90 mg, 0.023 mmol, 26.0% yield) as a TFA salt. 1H NMR (500 MHz, CD3OD) δ ppm 8.73-8.76 (2H, m), 8.28-8.32 (2H, m), 8.19 (1H, s), 7.86-7.90 (2H, m), 7.41-7.45 (2H, m), 6.48-6.50 (1H, m), 3.78-3.85 (1H, m), 3.14-3.21 (1H, m), 2.83-2.88 (1H, m), 2.32-2.38 (2H, m), 2.12-2.18 (3H, m), 1.55-1.64 (3H, m), 1.42-1.51 (3H, m), 0.78-0.84 (2H, m), 0.62-0.69 (2H, m) LC/MS, m/z 526.17 (M+1). HPLC Rt, 2.21 min. Waters Sunfire C18 column (4.6×50 mm) 0%-100% B. Solvent B: (90% MeOH, 10% H2O, 0.1% TFA). Solvent A: (10% MeOH, 90% H2O, 0.1% TFA). Gradient, start % B=0, final % B=100, gradient time 4 min, hold at 100% B 1 min, flow rate 4 mL/min.

reactant | 6-chloro-8-(4-(cyclopropylcarbamoyl)phenylamino)-N-(pyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 0.087 mmol, 39 mg | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC=NC=C2)NC2=CC=C(C=C2)C(NC2CC2)=O | C22H18ClN7O2
reactant | (trans)-cyclohexane-1,4-diamine | 0.871 mmol, 99 mg | [C@H]1(CC[C@H](CC1)N)N | C6H14N2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-((trans-4-aminocyclohexyl)amino)-8-((4-(cyclopropylcarbamoyl)phenyl)amino)-N-4-pyridinylimidazo[1,2-b]pyridazine-3-carboxamide | 0.023 mmol, 11.90 mg, 26.0% yield | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC=NC=C2)NC2=CC=C(C=C2)C(NC2CC2)=O | C28H31N9O2
